US08426411B2
Cesium carbonate (0.274 g, 0.841 mmol), tricyclohexylphosphine (20 wt % solution in toluene, 0.094 g, 0.067 mmol), Pd2(dba)3 (0.039 g, 0.042 mmol) and trimethylborate (0.069 g, 0.547 mmol) were added to a solution of N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-N-((2-(trimethylsilyl)ethoxy)methyl)cyclopropanesulfonamide (0.32 g, 0.421 mmol, prepared using KK from Preparation #GGG.1) in 1,4-dioxane (8 mL). The mixture was degassed and heated at about 85° C. for about 2 h. The solvent was removed and the residue was partitioned between EtOAc and water (20 mL each). The organic phase was washed with brine (15 mL), dried over anhydrous MgSO4, filtered and concd. The resulting mixture was purified by silica gel flash chromatography (40 to 100% of EtOAc in heptane) to yield N-((1S,3R,4S)-3-ethyl-4-(8-methyl-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-N-((2-(trimethylsilyl)ethoxy)methyl)cyclopropanesulfonamide (0.21 g, 77%) as a yellow amorphous solid. LC/MS (Table 1, Method a) Rt=3.39 min; MS m/z: 650 (M+H)+.

reactant | Cesium carbonate | 0.841 mmol, 0.274 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tricyclohexylphosphine | 0.067 mmol, 0.094 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | trimethylborate | 0.547 mmol, 0.069 g | COB(OC)OC | C3H9BO3
reactant | N-((1S,3R,4S)-3-ethyl-4-(8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-N-((2-(trimethylsilyl)ethoxy)methyl)cyclopropanesulfonamide | 0.421 mmol, 0.32 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1I)COCC[Si](C)(C)C)N(S(=O)(=O)C1CC1)COCC[Si](C)(C)C | C29H49IN6O4SSi2
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.042 mmol, 0.039 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-((1S,3R,4S)-3-ethyl-4-(8-methyl-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-N-((2-(trimethylsilyl)ethoxy)methyl)cyclopropanesulfonamide | 0.21 g, 77% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1C)COCC[Si](C)(C)C)N(S(=O)(=O)C1CC1)COCC[Si](C)(C)C | C30H52N6O4SSi2
